US05319099
(2) 1-(N-Hydroxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzoyl)pyrrolidin-2-one (Ia-20)
To a chilled solution (-78° C.) of 2 g (7.34 mmol) of the thus obtained 1-(N-tert-butyldimethylsilyloxy-N-methylcarbamoyl)pyrrolidin-2-one in THF (5 ml) was added 8.1 ml (8.1 mmol) of a THF solution of 1.0M lithium bis(trimethylsilyl)amide under a nitrogen atmosphere, and the mixture was stirred for 1 hour. To the reaction mixture was dropwise added 5 ml of a THF solution of 1.55 g (5 mmol) of methyl-3,5-di-tert-butyl-4-methoxymethyloxybenzoate while being stirred at room temperature for 20 hours. The reaction mixture was poured into ethyl acetate, washed with 0.1N hydrochloric acid and saturated brine, dried over magnesium sulfate and evaporated to give a residue, which was dissolved in 12 ml of acetone and added with 0.6 ml of conc. hydrochloric acid. The reaction mixture was stirred at room temperature for 20 hours, and poured into ethyl acetate, washed with water and saturated brine, dried over magnesium sulfate and evaporated to give a residue, which was chromatographed on silica gel (toluene/ethyl acetate=10/1) to give 200 mg of the objective compound (Ia-20) as white amorphous in 10% yield.

reactant | 1-(N-tert-butyldimethylsilyloxy-N-methylcarbamoyl)pyrrolidin-2-one | [Si](C)(C)(C(C)(C)C)ON(C(=O)N1C(CCC1)=O)C | C12H24N2O3Si
reactant | lithium bis(trimethylsilyl)amide | 1.0M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl-3,5-di-tert-butyl-4-methoxymethyloxybenzoate | 5 mmol, 1.55 g | COC(C1=CC(=C(C(=C1)C(C)(C)C)OCOC)C(C)(C)C)=O | C18H28O4
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | acetone | 12 ml | CC(=O)C | C3H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 8.1 mmol, 8.1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(N-Hydroxy-N-methylcarbamoyl)-3-(3,5-di-tert-butyl-4-hydroxybenzoyl)pyrrolidin-2-one | 200 mg, 10% yield | ON(C(=O)N1C(C(CC1)C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O)C | C21H30N2O5
